US07915424B2
3-Ethynylbenzonitrile
Add potassium carbonate (0.138 g, 1 mmol) to a solution of 3-trimethylsilanylethynylbenzonitrile from PREPARATION 5 (2.0 g, 10.1 mmol) in methanol (50 mL). Stir the mixture at room temperature for 20 min and add a 10% aqueous hydrochloric acid solution (4 mL). Concentrate to a reduced volume, add diethyl ether and water and separate the phases. Wash once the aqueous phase with diethyl ether. Combine the organic phases, dry over sodium sulfate and concentrate to obtain the title compound as a solid (1.17 g, 92%).

reactant | potassium carbonate | 1 mmol, 0.138 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-trimethylsilanylethynylbenzonitrile | C[Si](C)(C)C#CC=1C=C(C#N)C=CC1 | C12H13NSi
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 3-Ethynylbenzonitrile | 1.17 g, 92% | C(#C)C=1C=C(C#N)C=CC1 | C9H5N
